US07582796B2
Also provided are the formation of triethylenetetramine quaternary salts. In an additional embodiment, a tribenzaldehyde protected intermediate is reacted with at least more than about three equivalents of aqueous hydrochloric acid, for example, to form triethylenetetramine tetrahydrochloride, which is precipitated in greater than about 90% yield and greater than about 98% purity from isopropanol.

reactant | triethylenetetramine | NCCNCCNCCN | C6H18N4
reactant | hydrochloric acid | more than about three equivalents | Cl | ClH
product | triethylenetetramine tetrahydrochloride | greater than about 90% yield | Cl.Cl.Cl.Cl.NCCNCCNCCN | InChI=1S/C6H18N4.4ClH/c7-1-3-9-5-6-10-4-2-8;;;;/h9-10H,1-8H2;4*1H
